US08497278B2
(6-Methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-[1,3,5]triazin-2-yl-amine (146)
The title compound was prepared according to Method A and the experimentals described for compound 139 from 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and 1,3,5-triazin-2-amine. M/e+ 331 for C19H19N6 (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 8.71 (s, 1H), 8.51 (s, 1H), 8.24 (s, 1H), 7.94 (s, 1H), 7.65 (d, J=9.1 Hz, 1H), 7.58 (d, J=8.4 Hz, 2H), 7.26 (d, J=8.4 Hz, 2H), 7.14 (dd, J=9.1, 1.4 Hz, 1H), 5.06 (d, J=5.1 Hz, 2H), 2.39 (s, 3H), 2.32 (s, 3H) ppm.

reactant | 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C
reactant | 1,3,5-triazin-2-amine | N1=C(N=CN=C1)N | C3H4N4
product | (6-Methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-[1,3,5]triazin-2-yl-amine | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CNC2=NC=NC=N2 | C19H18N6
